Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This patient is a ___ year old male who complains of MVC. 
Patient was the intoxicated unrestrained driver of a motor 
vehicle which showed multiple stones walls, old over 3 
times, finally coming to rest after hitting another stone 
wall. He was evaluated at outside hospital, where CT scans 
of the head torso revealed rib fractures 2 through 5. 
Patient also had an EKG with deep T-wave inversions 
concerning for cardiac contusion. There is no pericardial 
effusion noted on the CT scan of the chest.

 
Past Medical History:
ETOH ___ months, h.o withdrawal, no seizures
depression with SI
 
Social History:
___
Family History:
Denies h.o early CAD, or h.o CAD,MI, heart dx. Reports father 
with multiple myeloma and brother with renal failure.
 
Physical Exam:
Constitutional: Arrvies without a c-collar
HEENT: Normocephalic, atraumatic
C-collar placed by us., Oropharynx within normal limits
Chest: Clear to auscultation. Positive tenderness to 
palpation of the chest wall. There is no crepitus.
Cardiovascular: Regular Rate and Rhythm, Normal first and 
second heart sounds
Abdominal: Soft, Nontender, Nondistended
Extr/Back: Atraumatic
Neuro: Speech slurred
Psych: Drowsy

 
Pertinent Results:
___ 12:30AM   WBC-7.7 RBC-3.85* HGB-13.8* HCT-40.4 MCV-105* 
MCH-35.9* MCHC-34.2 RDW-17.2*
___ 12:30AM   PLT SMR-NORMAL PLT COUNT-155
___ 12:30AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 12:30AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:30AM   cTropnT-<0.01
___ 12:30AM   GLUCOSE-92 UREA N-13 CREAT-0.7 SODIUM-144 
POTASSIUM-4.4 CHLORIDE-105 TOTAL CO2-22 ANION GAP-21*
___ 04:23AM   cTropnT-<0.01

___ Cardiac ECHO : 
Normal left ventricular cavity size with normal regional and low 
normal global systolic function
 
Brief Hospital Course:
Mr. ___ was evaluated by the Trauma team in the Emergency 
Room and admitted to the Trauma ICU for further management of 
pain from his rib fractures and close monitoring for possible 
cardiac contusion. He had serial Troponins done which were < 
0.01 and his cardiogram had some ST-T wave changes felt to be 
consistent with his LVH.  A cardiac echo was done which 
demonstrated no wall motion abnormalities and no pericardial 
effusion.

His rollover accident was caused by a blackout after excessive 
drinking but he was seen by the Psychiatric service as he has a 
history of suicide ideation and a possible suicide attempt was 
mentioned as the cause of the accident.  Mr. ___ denies 
this.  He was evaluated daily by the Psychiatric service who 
placed him with a 1:1 sitter.  They recommended Valium for 
symptoms of alcohol withdrawal and he initially received it 
around the clock as he demonstrated some agitation, tachycardia 
and diaphoresis.  This resolved within 48 hours.  He is felt to 
be at a high risk for suicide and meets ___ criteria ff 
or risk of harm to himself per psychiatry.

Following transfer to the Surgical floor he continued to use his 
incentive spirometer and cough and deep breath.  He remained 
free of any pulmonary complications from his rib fractures.  His 
pain was controlled with oral Dilaudid and he is tolerating a 
regular diet.  He did complain of some pain at the base of his 
___ metatarsal while walking although had no pain on palpation.  
An Xray was done which showed no fracture but degenerative 
changes in the foot.  

Given his profound Twave inversions on the final EKG read from 
his admission cardiology was consulted on ___ and recommended 
outpatient follow-up with his primary care physician with 
another ___ at thiat time.  

As his medical issues are resolved he will likely benefit from 
inpatient psychiatric hospitalization, for safety, 
stabilization, and psychopharm evaluation.

 
Medications on Admission:
Celexa
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. diazepam 10 mg Tablet Sig: One (1) Tablet PO Q2H (every 2 
hours) as needed for per CIWA >10.  
4. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain.  
5. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q 8H 
(Every 8 Hours) as needed for pain, fever.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
S/P MVC
1. Left anterior rib fractures ___. Cardiac contusion
3. ETOH dependence

 
Discharge Condition:
Activity Status: Ambulatory 
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
*  Your accident caused left anterior rib fractures ___ which 
can cause severe pain and subsequently cause you to take shallow 
breaths because of the pain.
 
*  You should take your pain medication as directed to stay 
ahead of the pain otherwise you won't be able to take deep 
breaths. If the pain medication is too sedating take half the 
dose and notify your physician.
 
*  Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
*  You will be more comfortable if you use a cough pillow to 
hold against your chest and guard your rib cage while coughing 
and deep breathing.
 
*  Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
*  Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
*  Do NOT smoke

*  Do NOT drink alcohol
 
*  If your doctor allows, non steroidal antiinflammatory drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
*  Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs ( crepitus ).
 
Followup Instructions:
___